US06200970B1
Hydrogen chloride gas that is dried for 5 hours is introduced into a suspension of 7.50 g (32.4 mmol) of 2-(3-bromo-4-methoxy-phenyl)-ethanol, 4.90 g (32.4 mmol) of 4-nitro-benzaldehyde and 4.39 g (32.4 mmol) of freshly melted zinc chloride in anhydrous benzene (96 ml). The reaction mixture is then diluted with ethyl acetate and washed neutral with water. After drying and concentration by evaporation, the solid residue is recrystallized from ethyl acetate (25 ml). 7.91 g (67%) of 6-bromo-7-methoxy-l-(4-nitrophenyl)-isochroman, melting point 144-147° C., is obtained.

reactant | 2-(3-bromo-4-methoxy-phenyl)-ethanol | 32.4 mmol, 7.50 g | BrC=1C=C(C=CC1OC)CCO | C9H11BrO2
reactant | 4-nitro-benzaldehyde | 32.4 mmol, 4.90 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
solvent | benzene | 96 ml | C1=CC=CC=C1 | C6H6
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | zinc chloride | [Cl-].[Zn+2].[Cl-]
product | 6-bromo-7-methoxy-l-(4-nitrophenyl)-isochroman | 7.91 g, 67% | BrC=1C=C2CCOC(C2=CC1OC)C1=CC=C(C=C1)[N+](=O)[O-] | C16H14BrNO4
